* Fixed PCR-800550: modified this file for Reserved Keywords, ramant
* Revision History : Modified FLYWHEEL model as per CCMPR00197725
* and to fix the DC Motor issue reported in CCMPR00282654. 
*$
*MODEL TYPE : 703
*DEVICE TYPE : Freq Divider
*NAME : DIV_BY_2
*PORT ORDER        A   B  C
.subckt awbdivby2 CLK CLR Q 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
UB inv DPWR DGND
+	CLR   CLRBAR 
+	D0_GATE IO_STD IO_LEVEL={IO_LEVEL} 
UIBUF bufa(2) DPWR DGND
+	$D_HI CLRBAR   PREBAR_BUF CLRBAR_BUF 
+	D0_GATE IO_STD IO_LEVEL={IO_LEVEL} 
UA inv DPWR DGND
+	CLK   CLKBAR 
+	D0_GATE IO_STD IO_LEVEL={IO_LEVEL} 
U1 jkff(1) DPWR DGND
+	PREBAR_BUF CLRBAR_BUF CLKBAR   $D_HI $D_HI   QI $D_NC 
+	D_111_1 IO_STD MNTYMXDLY={MNTYMXDLY} 
U2 dltch(1) DPWR DGND
+	PREBAR_BUF CLRBAR_BUF CLK   QI   Q QBAR 
+	D_111_2 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
R1 Qbar 0 200Meg
.ends awbdivby2
*$
*MODEL TYPE : 703
*DEVICE TYPE : Freq Divider
*NAME : DIV_BY_4
*PORT ORDER        A   B  C
.subckt awbdivby4 CLK CLR Q 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
xinstFF1 CLK CLR Inter awbdivby2  ;call for model awbdivby2
xinstFF2 Inter CLR Q awbdivby2    ;call for model awbdivby2
.ends awbdivby4
*$
*MODEL TYPE : 43
*DEVICE TYPE : Differentiator
*NAME : DXDT
*PORT ORDER     A   B
.SUBCKT awbdxdt 6   2 
+params: gain = 10
EDUMMY AWBDXDT_DUMMY 0 VALUE={1} ERROR={ERROR (GAIN==0.0, "ZERO VALUED COMPONENT")}
CC1 8 0 {GAIN}
EV1 2 0 4 0 1
RR3 0 2 1.000000K TC=0 0
RR2 0 4 100.000000MEG TC=0 0
RR1 0 8 10.000000G TC=0 0
GI2 0 4 POLY(2) 6 0 8 0 0 1 -10.000000m 0 0 0 0 0 0 0
GI1 0 8 4 0 100
.ENDS awbdxdt
*$
*MODEL TYPE : 420
*DEVICE TYPE : Integrator
*NAME : Integrator2
*PORT ORDER	        A  C  B
.SUBCKT awbintegrator2  1  2  5
+params: gain = 1
EDUMMY AWBINT_DUMMY 0 VALUE={1} ERROR={ERROR (GAIN==0.0, "ZERO VALUED COMPONENT")}
RIN1 1 4 2
RIN2 1 4 2
G1   2 0 4 0 {-GAIN}
R1   2 0 1000000000000
C1   2 0 1
EV1 5 0 2 0 1
ROUT1 5 0 1e3
.ENDS awbintegrator2
*$
*MODEL TYPE : 107
*DEVICE TYPE : Divider
*NAME : DIVIDER2
*PORT ORDER         IN1 IN2 OUT
.SUBCKT awbdivider2 10   8   3 
GI1 0 1 10 0 100
RR3 0 1 100.0MEG TC=0 0
GI3 1 0 POLY(2) 1 0 8 0 0 0 0 0 100 0 0 0 0 0
EV1 3 0 1 0 1
RR1 0 3 1.0K TC=0 0
.ENDS awbdivider2
*$
**MODEL TYPE : 703
*DEVICE TYPE : Freq Divider
*NAME : DIV_BY_3
*PORT ORDER        A   B  C
.subckt awbdivby3 CLK CLR Q 
+ optional: DPWR=$G_DPWR DGND=$G_DGND
+ params: MNTYMXDLY=0 IO_LEVEL=0
X1 CLKBAR $D_HI CLRBAR $D_HI B Q $D_NC $G_DPWR $G_DGND jkff_div
+  PARAMS:IO_LEVEL=0 MNTYMXDLY=0
X2   CLKBAR $D_HI CLRBAR Q B B $D_NC $G_DPWR $G_DGND jkff_div 
+ PARAMS:IO_LEVEL=0 MNTYMXDLY=0
X3  CLK CLKBAR $G_DPWR $G_DGND 7404 
+ PARAMS:IO_LEVEL=0 MNTYMXDLY=0
X4 CLR CLRBAR $G_DPWR $G_DGND 7404 
+ PARAMS:IO_LEVEL=0 MNTYMXDLY=0
.ends awbdivby3
*$
*MODEL TYPE : 703
*DEVICE TYPE : Freq Divider
*NAME : DIV_BY_5
*PORT ORDER        A   B  C
.subckt awbdivby5 CLK CLR Q 
+ optional: DPWR=$G_DPWR DGND=$G_DGND
+ params: MNTYMXDLY=0 IO_LEVEL=0
X1 J1 QB1 K2 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U3 inva(2) DPWR DGND
+	CLK CLR  CLKBAR CLRBAR
+	D0_GATE IO_STD 
X2  CLKBAR $D_HI CLRBAR Q $D_HI Q0 J1 $G_DPWR $G_DGND jkff_div PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X3  CLKBAR $D_HI CLRBAR J1 Q Q1 QB1 $G_DPWR $G_DGND jkff_div PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X4 CLKBAR $D_HI CLRBAR J1 K2 Q QB2 $G_DPWR $G_DGND jkff_div PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
.ends awbdivby5
*$
**************************
* jkff_div  Dual J-K Flip-Flops with Preset and Clear    
.subckt jkff_div  CLK PREBAR CLRBAR J K Q QBAR
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0
* --NOTE--
* The standard Flip-Flops are pulse triggered
*
*
UIBUF bufa(4) DPWR DGND
+	PREBAR CLRBAR J K   PREBAR_BUF CLRBAR_BUF J_BUF K_BUF 
+	D0_GATE IO_STD IO_LEVEL={IO_LEVEL} 
U1 srff(1) DPWR DGND
+	PREBAR_BUF CLRBAR_BUF CLK_BUF   W1 W2   Y YB 
+	D_76_1 IO_STD MNTYMXDLY={MNTYMXDLY} 
U2 srff(1) DPWR DGND
+	PREBAR_BUF CLRBAR_BUF CLKBAR   Y YB   Q2 QB2 
+	D_76_2 IO_STD MNTYMXDLY={MNTYMXDLY} 
U2BUF buf DPWR DGND
+	CLK   CLK_BUF 
+	D_76_4 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
U3 inva(3) DPWR DGND
+	CLK_BUF J_BUF K_BUF   CLKBAR JB KB 
+	D0_GATE IO_STD 
U4 ao(3,2) DPWR DGND
+	J_BUF K_BUF QB2D J_BUF KB $D_HI   W1 
+	D_76_3 IO_STD MNTYMXDLY={MNTYMXDLY} 
U5 ao(3,2) DPWR DGND
+	J_BUF K_BUF Q2D JB K_BUF $D_HI   W2 
+	D_76_3 IO_STD MNTYMXDLY={MNTYMXDLY} 
UBUF bufa(2) DPWR DGND
+	Q2 QB2   Q2D QB2D 
+	D_76_3 IO_STD MNTYMXDLY={MNTYMXDLY} 
UOBUF bufa(2) DPWR DGND
+	Q2 QB2   Q QBAR 
+	D_76_3 IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.ends
*$
*-------------------------------------------------------------
*Fuction Library Reopen from 01/072003
* MODEL_TYPE=143
* SYMBOL_NAME=DELAY
* TERM(A)=2 -- IN
* TERM(B)=1 -- OUT
.subckt awbdelay 2 1 PARAMS: DELAY = 10m
EDUMMY AWBDELAY_DUMMY 0 VALUE={1} ERROR={ERROR (DELAY<=0.0, "DELAY MUST BE GREATER THAN ZERO")}
RR2 0 3 1 TC=0 0
GV3 0 3 2 0 2
TT1 3 0 1 0 Z0=1 TD={DELAY}
RR3 0 1 1 TC=0 0
.ends awbdelay
*$
* MODEL_TYPE=143
* SYMBOL_NAME=DELAY1
* TERM(A)=2 -- IN
* TERM(B)=5 -- OUT
.subckt awbdelay1 2 5 PARAMS: DELAY = 10m
EDUMMY AWBDELAY1_DUMMY 0 VALUE={1} ERROR={ERROR (DELAY<=0.0, "DELAY MUST BE GREATER THAN ZERO")}
RR5 0 1 1 TC=0 0
TT2 1 0 5 0 Z0=1 TD={DELAY}
RR4 0 5 1 TC=0 0
*II1 0 1 2
GV3 0 1 2 0 -2
.ends awbdelay1
*$
* MODEL_TYPE=140
* SYMBOL_NAME=IN
* TERM(A)=1 -- PIN
* TERM(B)=2 -- NIN
* TERM(C)=3 -- OUT
.subckt awbin 1 2 3 PARAMS: THR = 10m HYS = 1N
II2 0 3 1u
SS3 3 0 1 2 MS1MSS3
.MODEL MS1MSS3 vswitch VT = {THR} VH = {HYS} RON=1MEG ROFF=1
.ends awbin
*$
*MODEL_TYPE=151
*SYMBOL_NAME=slewlimit
*TERM(A)=1 -- IN
*TERM(B)=7 -- OUT
.subckt awbslew_limit 1 7 PARAMS: POS_SLEW = 1K NEG_SLEW= 1K
.PARAM P = {POS_SLEW}; *scalar(|SRP_scalar|) is neglected
.PARAM Q = {NEG_SLEW}; *scalar(|SRN_scalar|)) is neglected
.PARAM IP = {P*1E-6}
.PARAM IN = {ABS(Q)*1E-6}
***** Slew_Limit -- START OF DECK****
II3 2 4 {IN}
DD5 4 2 M1MIDEALDIODE
.MODEL M1MIDEALDIODE D XTI=0 EG=0
* spectre: + IMAX=1000
DD3 4 3 M1MIDEALDIODE
II1 3 4 {IP}
EV1 3 0 1 0 10K
CC3 2 0 100p
EV15 7 0 2 0 100u
RR4 0 7 1K
.ends awbslew_limit
*$
* MODEL_TYPE=144
* SYMBOL_NAME = ONE_SHOT
* TERM(A)=1 -- TRIGGER
* TERM(B)=11 -- RESET
* TERM(C)=8 -- OUT
.SUBCKT AWBONE_SHOT 1 11 8 PARAMS: DELAY= 1U
.PARAM CC={0.002*DELAY}
EDUMMY AWBONE_SHOT_DUMMY 0 VALUE ={1} ERROR={ERROR(DELAY <= 0,"DELAY MUST BE GREATER THAN ZERO")}
SS10 9 0 8 0 MS1MSS10 
.MODEL MS1MSS10 VSWITCH VT=499.999970M VH=1N RON=1G ROFF=1M
II8 0 9 1.000000M
CC1 9 0 {CC}
SS9 5 4 11 0 MS2MSS9 
.MODEL MS2MSS9 VSWITCH VT=499.999970M VH=1N RON=1 ROFF=1MEG
SS8 5 4 9 0 MS2MSS9
II7 0 4 -2U
VV3 5 0 1
II6 0 2 2U
SS7 0 2 4 0 MS2MSS9
SS6 0 2 1 0 MS2MSS9
II5 0 7 1U
SS5 0 7 4 2 MS3MSS5
.MODEL MS3MSS5 VSWITCH VT=0 VH=499.999970M RON=1 ROFF=1MEG
GV2 0 6 7 0 2U
SS4 6 0 2 0 MS4MSS4
.MODEL MS4MSS4 VSWITCH VT=499.999970M VH=1.000000N RON=1K ROFF=1MEG
II4 6 0 1U
II3 0 8 1U
SS3 8 0 6 0 MS5MSS3
.MODEL MS5MSS3 VSWITCH VT=0 VH=499.999970M RON=1MEG ROFF=1
GV1 0 3 0 0 -2U
SS1 3 0 1 0 MS4MSS4
II1 3 0 -1U
II2 0 7 1U
SS2 7 0 3 0 MS5MSS3
.ENDS AWBONE_SHOT
*$
* MODEL_TYPE=145
* SYMBOL_NAME =VCO
*  TERM(A)=5-IN1
*  TERM(B)=4--IN2
*  TERM(C)=3--OUT
.SUBCKT AWBVCO 5 4 3  PARAMS:AF=1K AV=0.5 BF=900 BV=1
.PARAM ER1={IF(AF<=0,1,(IF(AF==1,1,0)))}
.PARAM II={((bv-av*bf/af)/((bv-av)*1e6))}
.PARAM G={((bf/af-1)/((bv-av)*1e6))}
.PARAM CAP ={1/(AF*4e6)}
EDUMMY1 AWBVCO_DUMMY1 0 VALUE ={1} ERROR={ERROR(ER1 == 1,"A FREQUENCY MUST BE GREATER THAN ZERO BUT NOT EQUAL TO 1")}
EDUMMY2 AWBVCO_DUMMY2 0 VALUE ={1} ERROR={ERROR(BF == 0,"B FREQUENCY MUST BE GREATER THAN ZERO")}
EDUMMY3 AWBVCO_DUMMY3 0 VALUE ={1} ERROR={ERROR(BV == AV,"A VOLTAGE MUST NOT EQUAL B VOLTAGE")}
RR2 4 6 1MEG 
II7 4 6 {II}
GV4 4 6 5 4  {G }
CC1 1 2  {CAP }   IC=-499.999970m
VV2 2 0 499.999970m
GI2 2 1 POLY(2) 6 4 3 2 0 0 0 0 1u 0 0 0 0 0
SS1 3 0 1 2 MS1MSS1
.MODEL MS1MSS1 VSWITCH VT=0 VH=0.5 RON=1 ROFF=1MEG
II1 0 3 1.000000u
.ENDS  AWBVCO
*$
* MODEL_TYPE=134
* SYMBOL_NAME = FY1
* TERM(A)=2 --IN
* TERM(B)=6  --OUT
.SUBCKT AWBFY1 2 6  Params: A0=0 B0=0 B1=0
.PARAM  A11={-A0}
.PARAM  BB1 ={B0-A0*B1}
GI22 0 1 value={ V(2,0)*BB1}
GI13 0 1 VALUE={V(1,0)*A11+V(3,0)}
EV1 6 0 VALUE={V(1,0)+V(2,0)*B1}
RR24 0 6 1G 
CC2 3 0 1
RR2 0 3 1MEG
RR1 0 1 1MEG
CC1 1 0 1
.ENDS AWBFY1
*$
* MODEL_TYPE=125
* SYMBOL_NAME = FY2
* TERM(A)=2 ---IN
* TERM(B)=6  ---OUT
.SUBCKT AWBFY2 2 6  Params: A0=0 A1=0 B0=0 B1=0 B2=0
.PARAM A11={-A1}
.PARAM A21={-A0}
.PARAM BB1={B1-A1*B2}
.PARAM BB2={B0-A0*B2}
GI22 0 1 VALUE={V(2,0)*BB1}
GI13 0 1 VALUE={V(1,0)*A11+V(3,0)}
GI23 0 3  VALUE={V(2,0)*BB2}
GI4  0 3 VALUE={V(1,0)*A21}
EV1 6 0 VALUE={V(1,0)+B2*V(2,0)}
RR24 0 6 1G
CC2 3 0 1
RR2 0 3 1MEG
RR1 0 1 1MEG
CC1 1 0 1
.ENDS AWBFY2
*$
* MODEL_TYPE=124
* SYMBOL_NAME = FY3
* TERM(A)=2 --IN
* TERM(B)=6 --OUT
.SUBCKT AWBFY3 2 6  Params: A0=0 B0=0 A1=0 B1=0 A2=0 B2=0 B3=0
.PARAM A11={-A2}
.PARAM A21={-A1}
.PARAM A31={-A0}
.PARAM BB1={B2-A2*B3}
.PARAM BB2={B1-A1*B3}
.PARAM  BB3={B0-A0*B3}
GI22 0 1  VALUE={V(2,0)*BB1}
GI13 0 1  VALUE={V(1,0)*A11+V(3,0)}
GI23 0 3  VALUE={V(2,0)*BB2}
GI4  0 3   VALUE={A21*V(1,0)}
GI5  0 3 VALUE={V(4,0)}
GI24 0 4 VALUE={V(2,0)*BB3}
GI7  0 4 VALUE={V(1,0)*A31}
EV1 6 0 VALUE={V(1,0)+V(2,0)*B3}
RR24 0 6 1G 
RR3 0 4 1MEG
CC3 4 0 1
CC2 3 0 1
RR2 0 3 1MEG
RR1 0 1 1MEG
CC1 1 0 1
.ENDS AWBFY3
*$
* MODEL_TYPE=123
* SYMBOL_NAME = FY4
* TERM(A)=2 --IN
* TERM(B)=6 --OUT
.SUBCKT AWBFY4 2 6  Params: A0=0 B0=0 A1=0 B1=0 A2=0 B2=0 B3=0 A3=0 B4=0
.PARAM A11={-A3}
.PARAM A21={-A2}
.PARAM A31={-A1}
.PARAM  A41={-A0}
.PARAM  BB1={B3-A3*B4}
.PARAM  BB2={B2-A2*B4}
.PARAM  BB3={B1-A1*B4}
.PARAM  BB4={B0-A0*B4}
GI22 0 1 VALUE={V(2,0)*BB1}
GI13 0 1 VALUE={V(1,0)*A11+V(3,0)}
GI23 0 3 VALUE={V(2,0)*BB2}
GI4  0 3 VALUE={V(1,0)*A21}
GI5  0 3 POLY(2) 4 0 5 0 0 1 0 0 0 0 0 0 0 0
GI24 0 4 VALUE={V(2,0)*BB3}
GI7  0 4 VALUE={V(1,0)*A31}
GI8  0 4 POLY(2) 4 0 5 0 0 0 1 0 0 0 0 0 0 0
GI25 0 5 VALUE={V(2,0)*BB4}
GI10 0 5 VALUE={V(1,0)*A41}
EV1 6 0 VALUE={V(1,0)+V(2,0)*B4}
RR24 0 6 1G 
CC4 5 0 1
RR4 0 5 1MEG
RR3 0 4 1MEG
CC3 4 0 1
CC2 3 0 1
RR2 0 3 1MEG
RR1 0 1 1MEG
CC1 1 0 1
.ENDS AWBFY4
*$
* MODEL_TYPE=142
* SYMBOL_NAME=ASW
* TERM(A)=3 -- IN
* TERM(B)=1 -- GATE
* TERM(C)=2 -- OUT
.subckt awbasw 3 1 2 params: ROFF = 1E12 RON=1
 SS8 3 2 1 0 MS1MSS8 
 .MODEL MS1MSS8 VSWITCH VT=0.5 VH=1n RON={RON} ROFF={ROFF}
EDUMMY AWBASW_DUMMY 0 VALUE ={1} ERROR={ERROR(ROFF <= RON,"OFF RESISTANCE MUST BE GREATER THAN ON RESISTANCE")}
.ENDS awbasw
*$
* MODEL_TYPE=142
* SYMBOL_NAME=ASW1
* TERM(A)=3 -- IN   
* TERM(B)=1 -- GATE 
* TERM(C)=2 -- OUT  
.subckt awbasw1 3 1 2 params: ROFF = 1E12 RON=1
 SS8 3 2 1 0 MS1MSS8 
.MODEL MS1MSS8 VSWITCH VT=0.5 VH=1n RON={ROFF} ROFF={RON}
EDUMMY AWBASW1_DUMMY 0 VALUE ={1} ERROR={ERROR(ROFF <= RON,"OFF RESISTANCE MUST BE GREATER THAN ON RESISTANCE")}
.ENDS awbasw1
*$
* MODEL_TYPE=141
* SYMBOL_NAME=OUT
* TERM(A)=2 - IN
* TERM(B)=1 - REF
* TERM(C)=3 - OUT
.subckt awbout 2 1 3 params: ROUT = 1 VLO = 0 VHI = 1
.param HI = {VHI}
.param LO = {VLO}
.param GG = {(HI-LO)/ROUT}
.param II = {(LO)/ROUT}
EDUMMY AWBOUT_DUMMY 0 VALUE ={1} ERROR={ERROR(HI <= LO,"HIGH OUTPUT LEVEL MUST BE GREATER THAN LOW OUTPUT LEVEL ")}
II1 1 3 {II}
GV3 1 3 2 0 {GG}
RR3 1 3 {ROUT}
.ENDS awbout
*$
* MODEL_TYPE=141
* SYMBOL_NAME=OUT1
* TERM(A)=2 - IN
* TERM(B)=1 - REF
* TERM(C)=3 - OUT
.subckt awbout1 2 1 3 params: ROUT = 1 VLO = 0 VHI = 1
.param HI = {VLO}
.param LO = {VHI}
.param GG = {(HI-LO)/ROUT}
.param II = {(LO)/ROUT}
EDUMMY AWBOUT1_DUMMY 0 VALUE ={1} ERROR={ERROR(LO <= HI,"HIGH OUTPUT LEVEL MUST BE GREATER THAN LOW OUTPUT LEVEL ")}
II1 1 3 {II}
GV3 1 3 2 0 {GG}
RR3 1 3 {ROUT}
.ENDS awbout1
*$
*  MODEL_TYPE=139
*  SYMBOL_NAME=GEARBOX
* TERM(A)=1
* TERM(B)=4
* RATIO=N1/N2
.SUBCKT AWBGEARBOX 1 4 PARAMS: RATIO=1
.PARAM A11={RATIO}
EDUMMY AWBGEARBOX_DUMMY 0 VALUE={1} ERROR={ERROR (RATIO==0.0, "ZERO VALUED COMPONENT")}
FI1 1 0 VIC1 {A11}
EV1 5 0 1 0 {A11}
RR1 4 0 10G
RR2 1 0 10G
VIC1 5 4 0
.ENDS  AWBGEARBOX
*$
*  MODEL_TYPE=147
*  SYMBOL_NAME=VISCOSITY
* TERM(A)=3  
 * TERM(B)=2
 .SUBCKT AWBVISCOSITY  3 2 PARAMS: VISC=1
.PARAM A11={1/VISC}
EDUMMY AWBVISCOSITY_DUMMY 0 VALUE ={1} ERROR={ERROR(VISC==0,"VISCOUS COEFFICIENT MUST BE NONZERO")}
RR4 3 2 {A11}
.ENDS  AWBVISCOSITY
*$
* MODEL_TYPE=146
* SYMBOL_NAME=FLYWHEEL
* TERM(A)=3
* TERM(B)=2
.SUBCKT AWBFLYWHEEL  3 2 PARAMS: INERTIA=1
.PARAM A11={INERTIA}
EDUMMY AWBFLYWHEEL_DUMMY 0 VALUE {1} ERROR={ERROR(INERTIA==0, "FLYWHEEL'S INERTIA MUST BE NONZERO")}
CC2 3 0 {A11}
RR4 3 0 100meg
RR3 3 2 0.5U
.ENDS  AWBFLYWHEEL
*$
* MODEL_TYPE=130
* SYMBOL_NAME=Ilim
.subckt AWBILIMIT 5 1 params: RS = 1m IL = -1 IU = 1
.param N = {IL}
.param P = {IU}
.param R = {RS*0.25}
.param PT = {P*R+1}
.param PH = {P*R*0.001}
.param NT = {N*R+1}
.param NH = {ABS(N)*R*0.001}
EDUMMY AWBILIM_NODE1 0 VALUE {1} ERROR={ERROR({P}<={N}, "IU MUST BE GREATER THAN IL")}
VV2 10 4 1
RR3 4 8 {R}
RR4 10 1 10G
II2 8 1 {N}
SS2 8 1 10 1 MS1MSS2
.MODEL MS1MSS2 VSWITCH VT={NT} VH={NH} RON={R} ROFF=1G
VV1 9 5 1
RR1 5 7 {R}
RR2 9 4 10G
II1 7 4 {P}
SS1 7 4 9 4 MS2MSS1
.MODEL MS2MSS1 VSWITCH VT={PT} VH={PH} RON=1G ROFF={R}
.ENDS AWBILIMIT
*$
* MODEL_TYPE=120
* SYMBOL_NAME=COMPLEX_POLE REAL AND IMAG
* TERM(A)=1 - IN
* TERM(B)=2 - OUT
.SUBCKT AWBCMPLXRI 1 2 PARAMS: HP_GAIN=0 BP_GAIN=0 LP_GAIN=1 REAL_HZ=1 IMAG_HZ=1
.PARAM ALFA={REAL_HZ}
.PARAM BETA={IMAG_HZ}
.PARAM mod_pi=3.14159265
.PARAM NAT_FREQ={{ALFA*ALFA + BETA*BETA}^0.5}
.PARAM OMEGA={2*mod_pi*NAT_FREQ}
.PARAM DAMPING={ALFA/NAT_FREQ}
.PARAM L_AND_C={1/OMEGA}
.PARAM R={2*DAMPING + 1E-6}
.PARAM A0={HP_GAIN*OMEGA*OMEGA}
.PARAM A1={{BP_GAIN*OMEGA}/R}
.PARAM A2={LP_GAIN}
.PARAM TMP1={IF(HP_GAIN > BP_GAIN,HP_GAIN,BP_GAIN)}
.PARAM TMP2={IF(TMP1 < LP_GAIN,LP_GAIN,TMP1)}
.PARAM TMP3={1E10/TMP2}
.PARAM BIG_R={IF(TMP3 < 1E8,TMP3,1E8)}
.PARAM MAX_A1={IF(A0 > A1,A0,A1)}
.PARAM MAX_A={IF(MAX_A1 < A2,A2,MAX_A1)}
.PARAM MAX_A_SQRT={MAX_A^0.5}
.PARAM A0_DIV_SQRT={A0/MAX_A_SQRT}
.PARAM A1_DIV_SQRT={A1/MAX_A_SQRT}
.PARAM A2_DIV_SQRT={A2/MAX_A_SQRT}
.PARAM ER1 ={IF({LP_GAIN}==0,IF({HP_GAIN}==0,IF({BP_GAIN}==0,1,0),0),0)}
.PARAM ER2 ={IF({LP_GAIN}<0,1,(IF({BP_GAIN}<0,1,(IF({HP_GAIN}<0,1,0)))))}
RIN1 1 8 2
RIN2 1 8 2
E1   3 0 8 0 {MAX_A_SQRT}
L1   3 4 {L_AND_C}
R1   4 5 {R}
C1   5 0 {L_AND_C}
EHP  2 6 3 4 {A0_DIV_SQRT}
EBP  6 7 4 5 {A1_DIV_SQRT}
ELP  7 0 5 0 {A2_DIV_SQRT}
ROUT 2 0 {BIG_R}
EDUMMY1 AWBCMPLXRI_DUMMY1 0 VALUE ={1} ERROR={ERROR(ER1==1,"ATLEAST ONE GAIN EXPECTED TO BE NON-ZERO")}
EDUMMY2 AWBCMPLXRI_DUMMY2 0 VALUE ={1} ERROR={ERROR(ER2==1,"NEGATIVE VALUED COMPONENT")}
EDUMMY3 AWBCMPLXRI_DUMMY3 0 VALUE ={1} ERROR={ERROR(ALFA<=0,"POLE LOCATION EXPECTED TO BE GREATER THAN ZERO")}
.ENDS AWBCMPLXRI
*$
* MODEL_TYPE=45
* SYMBOL_NAME=COMPLEX_POLE FREQ AND DAMP
* TERM(A)=1 - IN
* TERM(B)=2 - OUT
.SUBCKT AWBCMPLXFZ 1 2 PARAMS: HP_GAIN=0 BP_GAIN=0 LP_GAIN=1 FREQ_HZ=1 DAMPING=1
.PARAM mod_pi=3.14159265
.PARAM NAT_FREQ={FREQ_HZ} 
.PARAM OMEGA={2*mod_pi*NAT_FREQ}
.PARAM L_AND_C={1/OMEGA}
.PARAM R={2*DAMPING}
.PARAM A0={HP_GAIN*OMEGA*OMEGA}
.PARAM A1={{BP_GAIN*OMEGA}/R}
.PARAM A2={LP_GAIN}
.PARAM TMP1={IF(HP_GAIN > BP_GAIN,HP_GAIN,BP_GAIN)}
.PARAM TMP2={IF(TMP1 < LP_GAIN,LP_GAIN,TMP1)}
.PARAM TMP3={1E10/TMP2}
.PARAM BIG_R={IF(TMP3 < 1E8,TMP3,1E8)}
.PARAM MAX_A1={IF(A0 > A1,A0,A1)}
.PARAM MAX_A={IF(MAX_A1 < A2,A2,MAX_A1)}
.PARAM MAX_A_SQRT={MAX_A^0.5}
.PARAM A0_DIV_SQRT={A0/MAX_A_SQRT}
.PARAM A1_DIV_SQRT={A1/MAX_A_SQRT}
.PARAM A2_DIV_SQRT={A2/MAX_A_SQRT}
.PARAM ER ={IF({LP_GAIN}==0,IF({HP_GAIN}==0,IF({BP_GAIN}==0,1,0),0),0)}
RIN1 1 8 2
RIN2 1 8 2
E1   3 0 8 0 {MAX_A_SQRT}
L1   3 4 {L_AND_C}
R1   4 5 {R}
C1   5 0 {L_AND_C}
EHP  2 6 3 4 {A0_DIV_SQRT}
EBP  6 7 4 5 {A1_DIV_SQRT}
ELP  7 0 5 0 {A2_DIV_SQRT}
ROUT 2 0 {BIG_R}
EDUMMY1 AWBCMPLXFZ_DUMMY1 0 VALUE ={1} ERROR={ERROR(ER==1,"ATLEAST ONE GAIN EXPECTED TO BE NON-ZERO")}
.ENDS AWBCMPLXFZ
*$
*MODEL_TYPE=44
*SYMBOL_NAME=REALPOLE2
*TERM(A)=1 -- IN
*TERM(B)=2 -- OUT
.SUBCKT AWBREALPOLE2 1 2
+ PARAMS: GAIN =1 FREQ_HZ = 1K
.PARAM PLOC = {FREQ_HZ}
.PARAM SCALED_GAIN = {GAIN}
.PARAM TMP = {1.0E10/SCALED_GAIN}
.PARAM ENG_BIG_R={IF(TMP<1.0E8,TMP,1.0E8)}
.PARAM mod_pi = {3.1415926535897932384626433832795}
.PARAM ENG_C = {1.0/(200.0*mod_pi*PLOC)}
RIN1 1 4 2
RIN2 1 4 2
G1   3 0 4 0 -0.01
R1   3 0 100
C1   3 0 {ENG_C}
E1   2 0 3 0 {SCALED_GAIN}
ROUT 2 0 {ENG_BIG_R}
EDUMMY1 AWBREALPOLE_DUMMY1 0 VALUE ={1} ERROR={ERROR(PLOC<=0,"POLE LOCATION EXPECTED TO BE GREATER THAN ZERO")}
.ENDS AWBREALPOLE2
*$
*MODEL_TYPE=201
*SYMBOL_NAME=REALZERO2
*TERM(A)=1 -- IN
*TERM(B)=4 -- OUT
.SUBCKT AWBREALZERO2 1 4 PARAMS: FREQ_HZ = 1K GAIN=1
.PARAM ZLOC={FREQ_HZ}
.PARAM SCALED_GAIN={GAIN}
.PARAM SQRTP={SQRT(ABS(SCALED_GAIN))}
.PARAM ENG_P={SQRTP}
.PARAM SQRTN1={SQRTP*ABS(SCALED_GAIN)}
.PARAM SQRTN={1E6*SQRTN1/SCALED_GAIN}
.PARAM ENG_N :={SQRTN}
.PARAM mod_pi = {3.1415926535897932384626433832795}
.PARAM ENG_C= {0.0000005 / (mod_pi*ZLOC)}
R10 1 5 1K
R20 1 5 1K
E1 2 0 5 0 {ENG_P}
R2 2 6 1MEG
C1 2 6 {ENG_C}
R3 6 3 10U
H1 4 0 V1 {ENG_N}
V1 3 0 0.0
ROUT 4 0 1K
.ENDS AWBREALZERO2
*$
*  MODEL_TYPE=122
*  SYMBOL_NAME=fxyzt
* TERM(A)=2
* TERM(B)=3
* TERM(C)=1
.SUBCKT AWBFXYZT 2 3 1 PARAMS: A=0 B=0 C=0 D=0 E=0 F=0  G=0 H=0 I=0 J=0 K=0 L=0 M=0 N=0 O=0 P=0
 GI5 0 1 VALUE={(K*V(5,0))+(L*V(5,0)*V(5,0))+(N*V(5,0)*V(2,0))+(M*(V(5,0)^3))+(O*V(5,0)*V(5,0)*V(2,0))+(P*V(5,0)*V(2,0)*V(2,0))}
RR7 0 5 1G
VD 5 0 PWL (0.0 0.0 1.00e+03  1.0e+03  )
GI4 0 1 VALUE={J*V(1,0)*V(3,0)}
RR6 0 2 1G
RR5 0 3 1G
GI3 0 1 VALUE={G*V(3,0)+H*V(2,0)*V(3,0)+I*V(3,0)*V(3,0)}
GI2 0 1 VALUE={A+B*V(1,0)+C*V(2,0)+D*V(1,0)*V(1,0)+E*V(1,0)*V(2,0)+F*V(2,0)*V(2,0)}
CC2 1 0 1
RR2 0 1 1MEG
.ENDS AWBFXYZT
*$
*   MODEL_TYPE=135
*   SYMBOL_NAME=DCMOTOR
* TERM(A)=4 
* TERM(B)=7
* TERM(C)=3
.SUBCKT AWBDCMOTOR  4 7 3 PARAMS: R=0 L=1M BACK_EMF=1 K_TORQ=1 K_VISC=0 INERTIA=1M CONST_FRIC=0
.PARAM LA = {L}
.PARAM RL = {R*1E6+1E3}
.PARAM KE = {BACK_EMF}
.PARAM KT = {K_TORQ/RA}
.PARAM JM = {INERTIA}
.PARAM RF = {1/(K_VISC+1E-12)}
.PARAM TF = {CONST_FRIC}
.PARAM RA = {R+1E-6}
EDUMMY1 AWBDCMOTOR_DUMMY1 0 VALUE ={1} ERROR={ERROR(INERTIA == 0,"ROTOR INERTIA MUST BE NONZERO")}
EDUMMY2 AWBDCMOTOR_DUMMY2 0 VALUE ={1} ERROR={ERROR(L == 0,"ARMATURE INDUCTANCE MUST BE NONZERO")}
II2 3 0 {TF}
RR3 0 3 {RF}
CC1 3 0 {JM}
GI1 0 3 4 2 {KT}
EV1 1 7 3 0 {KE}
RR2 4 2 {RA}
RR1 2 1 {RL}
LL1 2 1 {LA}
.ENDS AWBDCMOTOR
*$
*   MODEL_TYPE=137
*   SYMBOL_NAME=TACHO
* TERM(A)=3 
* TERM(B)=7
* TERM(C)=4
.SUBCKT AWBTACHO  3 7 4 PARAMS: R=0 L=1M BACK_EMF=1 K_TORQ=1 K_VISC=0 INERTIA=1M CONST_FRIC=0
.PARAM LA ={L/1000}
.PARAM RL = {R*1E6+1E3}
.PARAM KE ={BACK_EMF}
.PARAM KT = {K_TORQ/RA}
.PARAM JM ={INERTIA/1000}
.PARAM RF = {1/(K_VISC+1E-12)}
.PARAM TF = {CONST_FRIC}
.PARAM RA = {R+1E-6}
EDUMMY1 AWBTACHO_DUMMY1 0 VALUE ={1} ERROR={ERROR(INERTIA == 0,"ROTOR INERTIA MUST BE NONZERO")}
EDUMMY2 AWBTACHO_DUMMY2 0 VALUE ={1} ERROR={ERROR(L == 0,"ARMATURE INDUCTANCE MUST BE NONZERO")}
II2 3 0 {TF}
RR3 0 3 {RF}
CC1 3 0 {JM}
RR10 7 4 1.0G
GI1 0 3 4 2 {KT}
EV1 1 7 3 0 {KE}
RR2 4 2 {RA}
RR1 2 1 {RL}
LL1 2 1 {LA}
.ENDS AWBTACHO
*$
.SUBCKT AWBEXP 2 1
RR3 7 0 25.000000n TC=0 0
DD1 6 0 M1Midx
.MODEL M1Midx D IS=1.000000n N=1 CJO=0 EG=0 XTI=0
* spectre: + IMAX=1000
EV4 4 7 POLY(2) 3 0 3 0 261.228420m 258.642000u 0 0 0 0 0 0 0 0
RR2 0 3 100 TC=0 0
GV1 0 3 2 0 1
DD2 3 10 M1Midx
DD3 11 3 M1Midx
VV2 10 0 1.499290K
VV3 11 0 -1.499290K
HV5 1 0 POLY(2) VIC1 VIC1 41.079500u 41.079500K 0 0 0 0 0 0 0 0
VIC1 4 6 0.0
RR4 0 1 1.000000K TC=0 0"
.ENDS AWBEXP
*$
.SUBCKT AWBLNX 3 2
GI1 0 1 POLY(2) 3 0 3 0 -1.000000n 72.0049 0 0 0 0 0 0 0 0
RR2 0 2 1.000000K TC=0 0
RR1 0 1 10.000000G TC=0 0
DD1 1 0 M1Midx
.MODEL M1Midx D IS=1.000000n N=1 CJO=0 EG=0 XTI=0
* spectre: + IMAX=1000
EV2 2 0 POLY(2) 1 0 1 0 -25 38.663481 0 0 0 0 0 0 0 0
.ENDS AWBLNX
*$
.SUBCKT AWBCOILSPRING A B PARAMS: IC=0 COILVAL=1M
LF_COILSPRING A B {1/COILVAL} IC={IC}
EDUMMY_COILSPRING NODE_DUMMY 0 VALUE {1} ERROR={ERROR(COILVAL==0 , "ZERO VALUED COMPONENT")}
.ENDS AWBCOILSPRING
